US05889026
(RS)-N-{4-[3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-2-hydroxy-propoxy]-phenyl}-methanesulfonamide hydrochloide
Methane sulfonylchloride (0.105 ml, 1.4 mmol) was added to a suspension of (RS)-1-[3-(4-amino-phenoxy)-2-hydroxy-propyl]-4-benzyl-piperidin-4-ol hydrochloride (0.5 g, 1.3 mmol) in CH2Cl2 (10 ml) and pyridine (5 ml) at room temperature. The mixture was stirred at room temperature overnight, water (15 ml) and brine (15 ml) were added and the mixture was extracted with CH2Cl2 (5×25 ml). The organic phases were pooled, dried with Na2SO4 and the solvent evaporated. The residue was chromatographed over silica gel (ethyl acetate-MeOH, 96:4) to give a colorless oil which was dissolved in ethanol (2 ml). 1.1 Equivalent of ethanolic HCl and t-butylmethylether (50 ml) were added to give (RS)-N-{4-[3-(4-benzyl-4-hydroxy-piperidin-1-yl)-2-hydroxy-propoxy]-phenyl}-methanesulfonamide hydrochloride (0.24 g, 38%) as colorless solid mixture of the E/Z isomers, m.p. >230° C. dec and MS: m/e =435.4 (M+H+).

reactant | Methane sulfonylchloride | 1.4 mmol, 0.105 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (RS)-1-[3-(4-amino-phenoxy)-2-hydroxy-propyl]-4-benzyl-piperidin-4-ol hydrochloride | 1.3 mmol, 0.5 g | Cl.NC1=CC=C(OCC(CN2CCC(CC2)(O)CC2=CC=CC=C2)O)C=C1
reactant | HCl | Cl | ClH
reactant | (RS)-N-{4-[3-(4-benzyl-4-hydroxy-piperidin-1-yl)-2-hydroxy-propoxy]-phenyl}-methanesulfonamide hydrochloride | 0.24 g | Cl.C(C1=CC=CC=C1)C1(CCN(CC1)CC(COC1=CC=C(C=C1)NS(=O)(=O)C)O)O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | brine | 15 ml | [Cl-].[Na+].O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | t-butylmethylether | 50 ml | C(C)(C)(C)OC | C5H12O
solvent | water | 15 ml | O | H2O
product | (RS)-N-{4-[3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-2-hydroxy-propoxy]-phenyl}-methanesulfonamide | C(C1=CC=CC=C1)C1(CCN(CC1)CC(COC1=CC=C(C=C1)NS(=O)(=O)C)O)O | C22H30N2O5S
